US08134001B2
Preparation of intermediate 5-bromo-2-(3-ethyl-oxetan-3-ylmethoxy)-benzaldehyde
To a mixture of 5-bromo-2-hydroxy-benzaldehyde (14 g, 70 mmol), KI (5 g) and K2CO3 (19 g, 140 mmol) in DMF (100 mL) was added toluene-4-sulfonic acid 3-ethyl-oxetan-3-ylmethyl ester (19 g, 70 mmol). The mixture was heated at 140° C. for 2 h, and then cooled to room temperature, partitioned between water and ethyl acetate. The organic layer was washed with water for 3 times, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography to give the title compound (10 g).

reactant | 5-bromo-2-hydroxy-benzaldehyde | 70 mmol, 14 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | K2CO3 | 140 mmol, 19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene-4-sulfonic acid 3-ethyl-oxetan-3-ylmethyl ester | 70 mmol, 19 g | C(C)C1(COC1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H18O4S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5-bromo-2-(3-ethyl-oxetan-3-ylmethoxy)-benzaldehyde | 10 g | BrC=1C=CC(=C(C=O)C1)OCC1(COC1)CC | C13H15BrO3
